US08685980B2
Following General Procedure D, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (200 mg, 0.68 mmol) and 4-(6-amino-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester (210 mg, 0.75 mmol) to give 4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridazin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (150 mg, 46%). MS (ESI) m/z 536.3 (M+H)+

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.68 mmol, 200 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 4-(6-amino-pyridazin-3-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.75 mmol, 210 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC(=CC1)N | C13H21N5O2
product | 4-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridazin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 150 mg, 46% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC(=CC1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCC2 | C27H37N9O3
